### PR TITLE
[Merged by Bors] - feat: add `Module.Finite.of_exact`

### PR DESCRIPTION
**Pull request by eric-wieser**
Also add two `stacks` tags for https://stacks.math.columbia.edu/tag/0519.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Finiteness/Finsupp.lean [hunk 1]
```diff
@@ -113,11 +114,24 @@ theorem fg_ker_comp (f : M →ₗ[R] N) (g : N →ₗ[R] P)
   · rwa [inf_of_le_right (show (LinearMap.ker f) ≤
       (LinearMap.ker g).comap f from comap_mono bot_le)]
 
+/-- If $0 → M → N → P → 0$ is exact and $M$ and $P$ are finitely generated then so is $N$.
```
Comment (erdOne) [inline Mathlib/RingTheory/Finiteness/Finsupp.lean]:
```suggestion
/-- If $M → N → P → 0$ is exact and $M$ and $P$ are finitely generated then so is $N$.
```

File: Mathlib/RingTheory/Finiteness/Finsupp.lean [hunk 2]
```diff
@@ -113,11 +114,24 @@ theorem fg_ker_comp (f : M →ₗ[R] N) (g : N →ₗ[R] P)
...
+
 theorem _root_.Module.Finite.of_submodule_quotient (N : Submodule R M) [Module.Finite R N]
-    [Module.Finite R (M ⧸ N)] : Module.Finite R M where
-  fg_top := fg_of_fg_map_of_fg_inf_ker N.mkQ
-    (by simpa only [map_top, range_mkQ] using Module.finite_def.mp ‹_›) <| by
-    simpa only [top_inf_eq, ker_mkQ] using .of_finite
+    [Module.Finite R (M ⧸ N)] : Module.Finite R M := by
+  refine .of_exact (f := N.subtype) (g := N.mkQ) ?_ (Quotient.mk_surjective _)
+  rw [LinearMap.exact_iff]
+  simp
```
Comment (erdOne) [inline Mathlib/RingTheory/Finiteness/Finsupp.lean]: Is this goal `LinearMap.exact_subtype_mkQ`? (not checked)

File: Mathlib/RingTheory/Finiteness/Finsupp.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Finiteness/Finsupp.lean]: Is the docstring above for `fg_of_fg_map_of_fg_inf_ker` wrong too?

File: Mathlib/RingTheory/Finiteness/Finsupp.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Finiteness/Finsupp.lean]: Nice!

File: Mathlib/RingTheory/Finiteness/Finsupp.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Finiteness/Finsupp.lean]: No it is correct because `M'` is indeed a submodule there.

Comment (eric-wieser) [reply Mathlib/RingTheory/Finiteness/Finsupp.lean]: Do you agree that this one is the one to give the stacks tag?

File: Mathlib/RingTheory/Finiteness/Finsupp.lean [hunk 3]
```diff
@@ -113,11 +114,22 @@ theorem fg_ker_comp (f : M →ₗ[R] N) (g : N →ₗ[R] P)
   · rwa [inf_of_le_right (show (LinearMap.ker f) ≤
       (LinearMap.ker g).comap f from comap_mono bot_le)]
 
+/-- If $M → N → P → 0$ is exact and $M$ and $P$ are finitely generated then so is $N$.
```
Comment (erdOne) [inline Mathlib/RingTheory/Finiteness/Finsupp.lean:117]:
```suggestion
/-- If `M → N → P → 0` is exact and `M` and `P` are finitely generated then so is `N`.
```
I am guessing we should either backticks + unicode or dollar signs + TeX.

**Review by erdOne — APPROVED** [review]
Otherwise LGTM
Thanks!
maintainer delegate

File: Mathlib/RingTheory/Finiteness/Finsupp.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Finiteness/Finsupp.lean]: I think the stacks tag is fine.

File: Mathlib/RingTheory/Finiteness/Finsupp.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/RingTheory/Finiteness/Finsupp.lean:117]: I'm a bit confused here because my understanding of the informal suggestion "I am guessing ..." (with which I largely agree) suggests that the PR is fine with or without the code suggestion.

Happy to let Eric act as he sees fit.

bors d+

Comment (eric-wieser) [reply Mathlib/RingTheory/Finiteness/Finsupp.lean:117]: My preference is to not put things in backticks unless they are valid Lean code, which `M → N → P → 0` is not. On the other hand, I think unicode arrows render just fine in LaTeX, so as written this should be ok.
